US07622464B2
Description 21: C-(1-Methyl-1H-[1,2,3]triazol-4-yl)methylamine hydrochloride
A solution of 1-methyl-1H-1,2,3-triazole-4-carboxamide (Bull. Chem. Soc. Jap. (1972), 45(8), 2577-9) (0.050 g) in bis(2-methoxyethyl)ether (diglyme, 2 ml) was treated with lithium borohydride (0.0264 g) and heated to reflux (oil bath 155° C.). Methanol (0.18 ml) was added dropwise in two portions after 5 min and 35 min, and the mixture heated under reflux for 1.5 h with stirring under nitrogen. Saturated aqueous ammonium chloride (0.2 ml) was added dropwise to the cooled mixture, and the mixture was diluted with methanol (2 ml). The solution was applied directly to an Isolute SCX ion exchange cartridge (5 g) (pre-eluted with methanol) and eluted with methanol followed by 10% 0.880 ammonia in methanol. The ammonia in methanol fraction was evaporated to low volume (ca. 1 ml), acidified with 4N hydrogen chloride in 1,4-dioxane (1 ml), and evaporated to dryness in vacuo to give the title compound (0.030 g).

reactant | 1-methyl-1H-1,2,3-triazole-4-carboxamide | 0.050 g | CN1N=NC(=C1)C(=O)N | C4H6N4O
reactant | lithium borohydride | 0.0264 g | [BH4-].[Li+]
reactant | ammonium chloride | 0.2 ml | [Cl-].[NH4+]
solvent | bis(2-methoxyethyl)ether | 2 ml | COCCOCCOC | C6H14O3
solvent | methanol | 2 ml | CO | CH4O
solvent | Methanol | 0.18 ml | CO | CH4O
product | C-(1-Methyl-1H-[1,2,3]triazol-4-yl)methylamine hydrochloride | 0.030 g | Cl.CN1N=NC(=C1)CN | InChI=1S/C4H8N4.ClH/c1-8-3-4(2-5)6-7-8;/h3H,2,5H2,1H3;1H
